US04517185
5-Hydroxy-4,5-bis-(4-methoxyphenyl)-2-thioxo-3-pyrroline-3-carbonitrile
16.5 g. 4,4'-Dimethoxybenzil, 6.0 g. cyanothioacetamide and 15 drops of piperidine were boiled for 2 hours in 200 ml. chloroform on a water separator. The yellow precipitate obtained was filtered off with suction, washed with some chloroform and dried at 80° C. and 0.1 mm.Hg for 12 hours. The desired product is obtained in a yield of 17.6 g. in the form of yellow crystals; m.p. 193° C. (decomp.).

reactant | 4,4'-Dimethoxybenzil | COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)OC | C16H14O4
reactant | cyanothioacetamide | C(#N)CC(=S)N | C3H4N2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | piperidine | 15 drops | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 5-Hydroxy-4,5-bis-(4-methoxyphenyl)-2-thioxo-3-pyrroline-3-carbonitrile | OC1(C(=C(C(N1)=S)C#N)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H16N2O3S
